US09107415B2
To a solution of 2-(4-bromo-2,6-dimethylphenyl)-3-methoxy-5-[1-pyridin-2-ylmethylidene]cyclopent-2-enone (2.8 g, 7.3 mmol) in acetic acid (30 ml) is added zinc powder (2.3 g, 36.5 mmol) at 25-30°C. The resulting suspension is stirred at 25-30°C. for 6-7 hours, then filtered through a bed of diatomaceous earth and washed with methanol (20 ml×2). The filtrate is concentrated under vacuum, water is added and the crude product is extracted with ethyl acetate (50 ml×3). The combined organic fractions are washed with distilled water, brine, dried over sodium sulfate, filtered and the filtrate concentrated in vacuo. The crude is purified by flash column chromatography to afford rac-2-(4-bromo-2,6-dimethylphenyl)-3-methoxy-5-pyridin-2-ylmethylcyclopent-2-enone.

reactant | 2-(4-bromo-2,6-dimethylphenyl)-3-methoxy-5-[1-pyridin-2-ylmethylidene]cyclopent-2-enone | 7.3 mmol, 2.8 g | BrC1=CC(=C(C(=C1)C)C=1C(C(CC1OC)=CC1=NC=CC=C1)=O)C | C20H18BrNO2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 36.5 mmol, 2.3 g | [Zn] | Zn
product | rac-2-(4-bromo-2,6-dimethylphenyl)-3-methoxy-5-pyridin-2-ylmethylcyclopent-2-enone | BrC1=CC(=C(C(=C1)C)C=1C(C(CC1OC)CC1=NC=CC=C1)=O)C | C20H20BrNO2
